US04567276
2-[p-(3-Cyclopropylamino-2-hydroxypropoxy)phenyl]-4-(2-thienyl)imidazole, VII
A solution of IV (6.80 g., 0.031 m.) in pyridine (12 ml.) is cooled to 10° C. and p-toluenesulfonyl chloride (5.91 g., 0.031 m) is added over 30 minutes, keeping temperature below 25° C. After stirring at 25° C. for 3 hours, a cold solution of K2CO3 (4.28 g., 0.031 m.) in H2O (28 ml.) is added and the mixture is extracted with CHCl3 (3×50 ml.). The extracts are washed with H2O, dried and concentrated under reduced pressure below 50° C., initially using water aspiration and finally high vacuum to yield the tosylate a (11.27 g., 97%). Sodium hydride (1.39 g., 0.029 m., 50% dispersion in mineral oil) is added to a solution of 2-(p-hydroxyphenyl)-4-(2-thienyl)imidazole (7.00 g., 0.029 m.) in dimethylformamide (50 ml.) under nitrogen and the mixture is heated at 60° C. for 30 minutes. A solution of the tosylate (11.27 g., 0.030 m.) in dimethylformamide (45 ml.) is added and the mixture is refluxed for 16 hours. The reaction mixture is poured into H2O (300 ml.) and extracted with ether (3×150 ml.). The combined organic layers are extracted with cold 1N HCl (3×75 ml.) and the acid layer added to sodium acetate (18.5 g., 0.23 m.) an stirred at 25° C. for 5 hours. The solution is extracted with ether (2X), basified with saturated Na2CO3 solution, extracted with 10% MeOH-CHCl3 (3×150 ml.), 150 ml.), dried and concentrated under reduced pressure. The residue is chromatographed on silica gel and eluted with 5% MeOH-CHCl3 saturated with NH3. The product VII is crystallized from CH3CN (0.43 g., mp 169°-171.5° C.).

reactant | Sodium hydride | 1.39 g | [H-].[Na+]
reactant | 2-(p-hydroxyphenyl)-4-(2-thienyl)imidazole | 7.00 g | OC1=CC=C(C=C1)C=1NC=C(N1)C=1SC=CC1 | C13H10N2OS
reactant | tosylate | 11.27 g | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | H2O | 300 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | 2-[p-(3-Cyclopropylamino-2-hydroxypropoxy)phenyl]-4-(2-thienyl)imidazole | C1(CC1)NCC(COC1=CC=C(C=C1)C=1NC=C(N1)C=1SC=CC1)O | C19H21N3O2S
